US05723460
b) 4-[2-(3-Cyclopentyloxy-4-methoxyphenyl)-2-hydroxyethyl]pyridine
From 4-methylpyridine (3.00 g, 32.1 mmol); n-butyllithium (32.1 mmol), and Intermediate 1 (6.82 g, 31.0 mmol). The crude product was subject to chromatography [SiO2 ; EtOAc-hexane, 3:2 (500 ml) to 4:1 (1000 ml) then EtOAc-methanol 9:1 (1500 ml)] to afford the title compound (9.68 g) as fine white needles m.p. 97°-101° C. (from toluene) δH (CDCl3) 1.5-2.0 (SH, br m, (CH2)4, 2.45(1H, br, s, CHOH), 2.96 (2H, d, J 6.5 Hz, CH2 pyridine), 3.80 (3H, s, OMe), 4.70 (1H, br, m, OCHCH2), 4.81 (1H, t, J 6.5 Hz, CHOH), 6.76 (3H, s, ArH ortho to OMe+2×ArH meta to OMe), 7.00 (2H, dm, J 4.5 Hz, pyridine H3, H5), and 8.33 (2H, dm, J 4.5 Hz, pyridine H2, H6).

reactant | 4-methylpyridine | 32.1 mmol, 3.00 g | CC1=CC=NC=C1 | C6H7N
reactant | n-butyllithium | 32.1 mmol | C(CCC)[Li]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | pyridine H2 | N1=CC=CC=C1.[H][H]
reactant | EtOAc methanol | 1500 ml | CCOC(=O)C.CO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[2-(3-Cyclopentyloxy-4-methoxyphenyl)-2-hydroxyethyl]pyridine | 9.68 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=CC=NC=C1)O | C19H23NO3
